US08455665B2
(S)-3-[(R)-1-(2,4-Dichlorophenoxy)-2-isopropoxyethyl]pyrrolidine
(S)-3-((R)-1-Hydroxy-2-isopropoxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester (25.0 mg, 91.4 μmol) was dissolved in DMF (190 μL). NaH (2.6 mg, 109.7 μmol) was added and the mixture was stirred at room temperature for 15 minutes. 2,4-Dichloro-1-fluorobenzene (21.4 μL, 182.9 mmol) was added and the mixture was stirred at 70° C. for 3 hours. The mixture was concentrated then dissolved in 1.2M HCl in EtOH (949 μL, 1.1 mmol) and stirred overnight. The product was concentrated and purified by preparative HPLC to yield the title compound as a mono-TFA salt oil (29.5 mg, 97% purity). MS m/z: [M+H]+ calcd for C15H21Cl2NO2, 318.10. found 318.0.

reactant | (S)-3-((R)-1-Hydroxy-2-isopropoxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 91.4 μmol, 25.0 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](COC(C)C)O | C14H27NO4
reactant | NaH | 109.7 μmol, 2.6 mg | [H-].[Na+]
reactant | 2,4-Dichloro-1-fluorobenzene | 182.9 mmol, 21.4 μL | ClC1=C(C=CC(=C1)Cl)F | C6H3Cl2F
reactant | EtOH | 1.1 mmol, 949 μL | CCO | C2H6O
solvent | DMF | 190 μL | CN(C)C=O | C3H7NO
solvent | HCl | 1.2M | Cl | ClH
product | (S)-3-[(R)-1-(2,4-Dichlorophenoxy)-2-isopropoxyethyl]pyrrolidine | ClC1=C(O[C@@H](COC(C)C)[C@@H]2CNCC2)C=CC(=C1)Cl | C15H21Cl2NO2
